US05420126
In 20 ml of N,N-dimethylformamide was dissolved 1.0 g of 6-cyano-3,4-dihydro-2,2-dimethyl-2H-1,4-benzoxazine followed by addition of 0.24 g of sodium hydride. The mixture was stirred at 70° C. for 1 hour and after cooling to room temperature, 0.5 ml of cyclopentene oxide was added. The mixture was stirred at 70° C. for 3 hours. The reaction mixture was then allowed to cool, diluted with water and extracted with ethyl acetate. The extract was washed with water and aqueous sodium chloride solution and dried over anhydrous magnesium sulfate and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography and the resulting crude crystals were recrystallized from ethyl acetate-hexane to give 0.53 g of 6-cyano-3,4-dihydro-4-(2-hydroxycyclopentan-1-yl)-2,2-dimethyl-2H-1,4-benzoxazine.

reactant | 6-cyano-3,4-dihydro-2,2-dimethyl-2H-1,4-benzoxazine | 1.0 g | C(#N)C=1C=CC2=C(NCC(O2)(C)C)C1 | C11H12N2O
reactant | sodium hydride | 0.24 g | [H-].[Na+]
reactant | cyclopentene oxide | 0.5 ml | C12C(CCC1)O2 | C5H8O
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 6-cyano-3,4-dihydro-4-(2-hydroxycyclopentan-1-yl)-2,2-dimethyl-2H-1,4-benzoxazine | 0.53 g | C(#N)C=1C=CC2=C(N(CC(O2)(C)C)C2C(CCC2)O)C1 | C16H20N2O2
